US07834021B2
To a solution of 1.7 g (6.6 mmol) of 8-(6-fluoropyridin-3-yl)-1,4-dioxaspiro[4.5]decan-8-ol in 20 mL of DMF was added KCN (430 g, 6.6 mmol) and 18-crown-6 ether (1.8 g, 6.6 mmol). The reaction mixture was refluxed for 2 days. Direct chromatography on silica gel afforded the 5-(8-hydroxy-1,4-dioxaspiro[4.5]dec-8-yl)pyridine-2-carbonitrile (620 mg, 36%): MS (m/e): 261 (M+1)+.

reactant | 8-(6-fluoropyridin-3-yl)-1,4-dioxaspiro[4.5]decan-8-ol | 6.6 mmol, 1.7 g | FC1=CC=C(C=N1)C1(CCC2(OCCO2)CC1)O | C13H16FNO3
reactant | KCN | 6.6 mmol, 430 g | [C-]#N.[K+]
reactant | 18-crown-6 ether | 6.6 mmol, 1.8 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-(8-hydroxy-1,4-dioxaspiro[4.5]dec-8-yl)pyridine-2-carbonitrile | 620 mg, 36% | OC1(CCC2(OCCO2)CC1)C=1C=CC(=NC1)C#N | C14H16N2O3
